US07632861B2
1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinylisochroman.
To a solution of 1-(3,5-bis(trifluoromethyl)benzyloxy)-2-(2-(2-methoxyvinyl)phenyl)but-3-en-2-ol (190 mg, 0.426 mmol) and triethylsilane (0.27 mL, 1.7 mmol) in dichloromethane (4 mL) at −78° C. was added boron trifluoride etherate (0.11 mL, 0.85 mmol) dropwise. The ice bath was removed after 10 min, stirred at room temperature for 30 min, recooled to −78° C., and quenched by addition of saturated sodium bicarbonate. The mixture was extracted with diethyl ether (2×) which was washed with brine, dried over magnesium sulfate, and concentrated. Column chromatography (3%-->10% EtOAc/Hex) gave 125 mg (71%). 1H-NMR (CDCl3, 300 MHz) δ 7.74 (s, 1H), 7.64 (s, 2H), 7.20 (m, 2H), 7.13 (m, 2H), 6.04 (dd, J=17.1, 10.7 Hz, 1H), 5.31 (dd, J=10.7, 1.2 Hz, 1H), 5.20 (dd, J=17.4, 1.5 Hz, 1H), 4.67 (qAB, JAB=13.4 Hz, 2H), 4.04 (ddd, J=11.3, 5.5, 2.4 Hz, 1H), 3.87 (ddd, J=11.0, 11.0, 3.4 Hz, 1H), 3.79 (qAB, JAB=10.4 Hz, 2H), 3.04 (ddd, J=16.5, 11.0, 5.8 Hz, 1H), 2.64 (ddd, J=16.2, 2.7, 2.7 Hz, 1H); 13C-NMR (CDCl3, 126 MHz) δ 141.4, 139.1, 135.9, 135.2, 131.6 (q, J=33.6 Hz), 129.2, 127.3, 126.9, 126.4, 126.0, 123.5 (q, J=273 Hz), 121.4, 117.4, 80.0, 77.6, 72.2, 60.3, 29.4. Mass spec.: 439.25 (MNa)+.

reactant | 1-(3,5-bis(trifluoromethyl)benzyloxy)-2-(2-(2-methoxyvinyl)phenyl)but-3-en-2-ol | 0.426 mmol, 190 mg | FC(C=1C=C(COCC(C=C)(O)C2=C(C=CC=C2)C=COC)C=C(C1)C(F)(F)F)(F)F | C22H20F6O3
reactant | triethylsilane | 1.7 mmol, 0.27 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 0.85 mmol, 0.11 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinylisochroman | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)C=C)C=C(C1)C(F)(F)F)(F)F | C21H18F6O2
